US05670661
3.15 g of 2-methylcyclohexanone and 3.85 g of cyclohexane percarboxylic acid, dissolved in n-hexane, are kept at 50° C. for 3 hours under agitation. The reaction product is treated with H2O, then neutralized with a solution of Na2CO3 and finally extracted with ethyl acetate. After solvent distillation, one obtains 3.3 g of 7-methyl-2-oxepanone, identified by mass spectrometry (EI, 70 eV), yielding the following m/e values: 128, 98, 80, 69, 55, 42.

reactant | 2-methylcyclohexanone | 3.15 g | CC1C(CCCC1)=O | C7H12O
reactant | cyclohexane | 3.85 g | C1CCCCC1 | C6H12
reactant | H2O | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-hexane | CCCCCC | C6H14
product | 7-methyl-2-oxepanone | 3.3 g | CC1CCCCC(O1)=O | C7H12O2
